Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / Erythromycin Base / Crestor
 
Attending: ___.
 
Chief Complaint:
weakness, shoulder pain s/p fall
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ with hypertension, known gait disturbance x years of unclear 
etiology (?cervical spondylosis), presenting with falls and 
right sided weakness. Fell initially 3 weeks ago (first fall 
that she can ever remember) and then again today. During initial 
fall she was walking when suddenly felt her knees give out. Fell 
with majority of weight on left shoulder. Since then has had 
shoulder pain, self treated with tylenol. Also noted bruising in 
the area. States she felt like her legs became weak and gave out 
on her. Could not tell if one leg weaker than the other, but in 
the past she has noted R>L leg weakness. No CP, dyspnea, palps, 
LH. Her second fall was on day of presentation. She was walking 
to the BR and again felt gradual onset of leg weakenss. She slid 
down to the floor and waited until friend arrived, then EMS was 
called. No head or facial trauma. No neck or back pain. No UE 
weakness, numbness, or clumsiness. Does note nighttime urinary 
incontinence (states she does not feel safe getting up at night, 
so wears incontinence briefs). No confusion.  
.  
In the ED, initial VS were: T98.7 82 144/61 16 99% on RA. Noted 
to be tender over left shoulder with ecchymoses. No gross 
neurologic deficits, but patient was not comfortable enough to 
attempt walking. CT head negative. Plain films of left shoulder 
with subacute humeral head fracture. Patient received 
ciprofloxacin IV for pyuria.  
.  
On the floor, patient quite pleasant, no complaints.  
.  
Review of systems:  
(+) Per HPI  
(-) Denies fever, chills, headache, cough, shortness of breath. 
Denied chest pain or tightness, palpitations. Denied nausea, 
vomiting, diarrhea, constipation or abdominal pain. No recent 
change in bowel or bladder habits.  
 
Past Medical History:
- gait disturbance x ___ years, seen for evaluation by several 
neurologists; ?of NPH in the past by MRI. Ultimately thought to 
have cervical spondylosis. Patient recalls LP (describes more 
for diagnostic purposes, but per notes, initial slight 
improvement in gait)  
- Hypertension  
- hyperlipidemia  
- left breast cancer s/p mastectomy  
- Chronic anemia.  
- ___ seen on TTE  
- Chronic renal insufficiency (most recently in 1.2-1.3 range)  
- s/p appy  
- h/o cataract surgery  
 
Social History:
___
Family History:
Mother had a pancreatic cancer at age ___ and brother had 
rheumatic heart disease.
 
Physical Exam:
On admission:
Vitals: T: 97.1, 156/78, HR 82, R20, 100% RA  
General: Alert, oriented, very pleasant, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear  
Neck: supple, JVP not elevated, no LAD, no cervical spine TTP  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema. L shoulder without obvious deformity; diffusely tender, 
ecchymosis over shoulder and into upper arm.  
Neuro: CN II-XII intact. 4+ to ___ strength in her right 
deltoid, ___ right biceps and triceps, and was full strength in 
bilateral wrist extension, wrist flexion, finger extension, 
interossei and grip. Negative Froment's sign. LUE deltoid, 
biceps and triceps exam limited by patient's shoulder pain. Full 
strength in bilateral IP, Q, H, DF, PF, TE. No pronator drift on 
right. The patient was able to stand for approximately 15 
seconds and felt unable to support herself due to left shoulder 
pain. All extremities were well perfused with full distal pulses 
and intact sensation to light touch. FTN with RUE WNL. No 
dysdiadochokinesia in RUE.

On discharge: the patient's VSS were stable with BPs in 
110s-130s. strength exam was stable.  She was able to stand in 
place with her walker without lightheadedness/orthostatic 
hypotension.
 
Pertinent Results:
___ 08:14PM BLOOD WBC-8.9 RBC-3.24* Hgb-9.7* Hct-29.3* 
MCV-91 MCH-30.0 MCHC-33.1 RDW-13.0 Plt ___
___ 09:00AM BLOOD WBC-8.1 RBC-3.31* Hgb-9.9* Hct-29.4* 
MCV-89 MCH-30.0 MCHC-33.7 RDW-13.1 Plt ___
___ 04:55AM BLOOD WBC-6.3 RBC-2.91* Hgb-8.6* Hct-26.8* 
MCV-92 MCH-29.6 MCHC-32.2 RDW-13.0 Plt ___
___ 08:14PM BLOOD Neuts-77.2* Lymphs-17.6* Monos-4.2 
Eos-0.7 Baso-0.3
___ 08:14PM BLOOD Plt ___
___ 09:00AM BLOOD Plt ___
___ 04:55AM BLOOD Plt ___
___ 08:14PM BLOOD Glucose-121* UreaN-48* Creat-1.4* Na-140 
K-5.2* Cl-103 HCO3-26 AnGap-16
___ 09:00AM BLOOD Glucose-120* UreaN-38* Creat-1.2* Na-142 
K-4.9 Cl-105 HCO3-25 AnGap-17
___ 04:55AM BLOOD Glucose-112* UreaN-49* Creat-1.4* Na-142 
K-4.7 Cl-108 HCO3-23 AnGap-16
___ 08:14PM BLOOD CK(CPK)-40
___ 08:14PM BLOOD Calcium-10.0 Phos-3.3 Mg-2.4
___ 09:00AM BLOOD Albumin-4.0 Calcium-10.3 Phos-3.1 Mg-2.0
___ 04:55AM BLOOD TotProt-6.0* Mg-1.9 Iron-PND
___ 04:55AM BLOOD VitB12-PND Folate-PND Ferritn-PND TRF-PND
___ 08:14PM BLOOD TSH-0.58
___ 04:55AM BLOOD PEP-PND
.
URINE:
___ 10:00PM URINE Color-Yellow Appear-Clear Sp ___
___ 10:00PM URINE Blood-SM Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-5.0 Leuks-SM
___ 10:00PM URINE ___ Bacteri-FEW Yeast-NONE 
___ 01:03PM URINE Hours-RANDOM UreaN-PND Creat-PND Na-PND 
TotProt-PND
___ 01:03PM URINE U-PEP-PND Osmolal-PND
.
MICRO:
Urine culture ___ (Final ___: MIXED BACTERIAL FLORA ( 
>= 3 COLONY TYPES), CONSISTENT WITH SKIN AND/OR GENITAL 
CONTAMINATION. 
.
STUDIES:
CXR PA/LAT ___: IMPRESSION: No acute intrathoracic 
abnormality.
.
Left shoulder AP/neutral/axillary ___: IMPRESSION: Subacute 
comminuted fracture of the left proximal humerus.
.
ECG ___ rhythm. Non-diagnostic inferior Q waves. 
Somewhat early R wave progression. Since the previous tracing of 
___ the rate is slower and QRS voltage is less prominent. 
  Intervals Axes 
Rate PR QRS QT/QTc P QRS T 
78 146 82 ___ 36 50 
.
Non-contrast Head Ct ___: IMPRESSION: No evidence of an 
acute intracranial abnormality.
 
Brief Hospital Course:
# Falls and gait unsteadiness/leg weakness - this patient with 
chronic gait unsteadiness with recent falls was found to have 
mild symmetric proximal weakness in her shoulders and full leg 
strength on exam and was unable to stand on her own with a 
walker. NCHCT and CXR were negative, though she had a pyuria on 
U/A which was treated per below. She was not orthostatic and had 
no evidence of syncope or presyncope after hydration in the ED 
though she was still dry on exam and with labs suggestive of 
some prerenal renal insuffiency. She did not describe 
incontinence (though endorsed wearing diapers for volitional 
urination at night secondary to fear of fall). The patient has a 
history of cervical spondylosis on imaging, and made clear that 
she was opposed to spinal (or shoulder) surgery. Her cognition 
and sensorium was grossly appropriate for her age. She was 
gently hydrated, with improvement in her ability to stand, and 
___ were consulted, which recommended acute rehab placement 
for assistance with ADLs and safety (lives alone with homemaker 
___. TSH was within normal limits, and UPEP, SPEP were 
pending at discharge.
.
# Humeral head fracture - subacute comminuted fracture was seen 
on imaging, consistent with history of her fall 3 weeks ago. 
Orthopedics was consulted, which recommended conservative 
management with a sling, pendulum exercises, and follow up in 
clinic in 4 weeks. Her walk was worked up per above. She was 
started on standing tylenol which improved her pain.  
.  
# Acute on chronic renal insufficiency - Cr was 1.4 on 
admission, vs. 1.2-1.3 baseline. Her Cr improved to 1.2 with IVF 
and this was thought to be most likely a prerenal azotemia; this 
returned to 1.4 on the morning of discharge. SPEP, UPEP, urine 
electrolytes were pending at discharge. Please recheck Cr on 
___. If elevated, please resend U/A, urine culture, and hold 
any ace inhibitor or hctz.
.
# Pyuria - patient with pyuria and ___ on U/A, asymptomatic.  
The patient was empirically treated for acute uncomplicated 
cystitis with 2 days of ciprofloxacin until cultures 
demonstrated mixed bacterial flora c/w contamination.
.  
# Hypertension - patient with episode of hypotension to 88 
systolic, which responded to bolused fluids. Home lisinopril and 
HCTZ were held and atenolol continued, with SBPs 110s-130s.
.
# Chronic normocytic anemia - Patient with hct ___ vs. 
baseline ___. Iron, ferritin, TRF, B12, folate all pending at 
discharge. Patient had not stooled during her admission to allow 
for stool guaiac. Please guaiac stools at rehab.
 
Medications on Admission:
ATENOLOL 50 mg once a day  
HYDROCHLOROTHIAZIDE 12.5 mg once a day  
LISINOPRIL 10 mg once a day
 
Discharge Medications:
1. Atenolol 50 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
2. Heparin (Porcine) 5,000 unit/mL Solution Sig: 5000 (5000) 
units Injection TID (3 times a day): while non-ambulatory.  
3. Acetaminophen 500 mg Tablet Sig: Two (2) Tablet PO TID (3 
times a day) as needed for pain.  
4. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
5. Senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed for constipation.  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Left humeral head fracture
Sterile Pyuria
Acute on chronic renal failure

Secondary:
Hypertension
Anemia

 
Discharge Condition:
Mental Status: Clear and coherent
Level of Consciousness: Alert and interactive
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane)

 
Discharge Instructions:
You were admitted to the hospital with a recent fall, pain in 
your shoulder and weakness.  Your examination revealed mild 
weakness in part of your right arm, pain in your left shoulder, 
and difficulty standing in place. An x-ray of your left arm was 
performed revealing a fracture of your upper arm bone (humerus) 
near the shoulder. You were found to have white blood cells in 
your urine. You were initially treated with antibiotics but your 
urine culture was negative for infection so you do not need to 
continue antibiotics. You should have a repeat urinalysis as 
directed by your primary care doctor. You were treated with 
intravenous fluids for worsening of your kidney function ("acute 
renal failure") and low blood pressures, and your home blood 
pressure medications were adjusted. Your low blood pressures and 
worsened kidney function were likely the result of some mild 
dehydration.  You were seen by Orthopedics, who recommended the 
use of an arm sling with follow up in their clinic in 4 weeks.  
You were also seen by physical therapy and occupational therapy, 
who recommended that you be evaluated and treated at a 
___ your weakness when walking and for 
assistance with your activities of daily living. You also have 
chronic low blood counts (anemia) which did not seem to be 
contributing to your symptoms; we sent additional labs to help 
evaluate the cause of this and ask that you follow up these 
results with your PCP ___ at your next appointment.

The following changes to your medications were made:
1. Added subcutaneous heparin 5000 units subcutaneously three 
times daily as long as you are not walking
2. Added tylenol 1,000 mg by mouth three times daily as needed 
for shoulder pain
3. Added docusate 100 mg by mouth daily
4. Added senna 8.6 mg by mouth twice daily as needed for 
constipation
5. Discontinued lisinopril
6. Discontinued hydrochlorothiazide

Please continue to take your atenolol as prescribed.
 
Followup Instructions:
___